US09079866B2
(R)-4′-(5-Amino-1,3,4-thiadiazol-2-yl)-3′-fluoro-N-(1-hydroxypropan-2-yl)-[1,1′-biphenyl]-2-sulfonamide
The title compound was prepared using analogous conditions to those described in Example 6 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1,3,4-thiadiazol-2-amine and (R)-2-bromo-N-(1-hydroxypropan-2-yl)benzene-sulfonamide. MS (ESI): mass calcd. for C17H17FN4O3S2, 408.07; m/z found, 409.1 [M+H]+. 1H NMR (300 MHz, CD3OD) δ 8.15-8.12 (m, 2H), 7.68 (m, 1H), 7.61 (m, 1H), 7.44-7.38 (m, 3H), 3.42-3.38 (m, 1H), 3.30-3.25 (m, 1H), 3.22-3.18 (m, 1H), 1.02 (d, J=6.6, 3H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1,3,4-thiadiazol-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C1=NN=C(S1)N | C14H17BFN3O2S
reactant | (R)-2-bromo-N-(1-hydroxypropan-2-yl)benzene-sulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)N[C@@H](CO)C | C9H12BrNO3S
product | (R)-4′-(5-Amino-1,3,4-thiadiazol-2-yl)-3′-fluoro-N-(1-hydroxypropan-2-yl)-[1,1′-biphenyl]-2-sulfonamide | NC1=NN=C(S1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N[C@@H](CO)C)F | C17H17FN4O3S2
